US06509329B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]homopiperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (100 mg) and homopiperazine (17 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 100 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
reactant | homopiperazine | 17 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCN(CCC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C35H42N4O6
